US04160765
A mixture of 8.0 g of 2-chloro-3,4-dimethoxy-phenethylamine and 5.25 g of m-trifluoromethyl-α-methoxyphenethylbromide is heated at 100°-105° for 21/2 hours. The product was partitioned betwen ethyl acetate and 5% sodium bicarbonate solution. The organic layer was removed, washed with brine, dried and concentrated. The residue was passed over 350 g of silica gel with 1 to 2 % methanol/chloroform. The resulting product was an oil whose hydrochloride melted at 200°-202° . The oily base (2.5 g.) was heated with 50 ml of 48% hydrogen bromide and worked up as above to give the desired 6-chloro-7,8-dihydroxy-1-(m-trifluoromethylphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide, m.p. ~250°.

reactant | 2-chloro-3,4-dimethoxy-phenethylamine | 8.0 g | ClC1=C(CCN)C=CC(=C1OC)OC | C10H14ClNO2
reactant | m-trifluoromethyl-α-methoxyphenethylbromide | 5.25 g | FC(C=1C=C(CC(OC)Br)C=CC1)(F)F | C10H10BrF3O
product | 6-chloro-7,8-dihydroxy-1-(m-trifluoromethylphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | Br.ClC1=C(C(=CC=2C(CNCCC21)C2=CC(=CC=C2)C(F)(F)F)O)O | InChI=1S/C17H15ClF3NO2.BrH/c18-15-11-4-5-22-8-13(12(11)7-14(23)16(15)24)9-2-1-3-10(6-9)17(19,20)21;/h1-3,6-7,13,22-24H,4-5,8H2;1H
